US08487101B2
2-[(R)-4-(Methanesulfonyloxy)isoxazolidine-2-carbonyl]benzoic acid methyl ester
2-[(R)-4-Hydroxyisoxazolidine-2-carbonyl]benzoic acid methyl ester (prepared by the method of Martin et al., Tetrahedron Lett., 2007, 47, 7635) (3.50 g, 14.0 mmol) was dissolved in dichloromethane (100 mL) and N,N-diisopropylethylamine (3.55 mL, 20.3 mmol), then methanesulfonyl chloride (1.40 mL, 18.5 mmol) was added and the mixture was stirred at room temperature for 18 hours. The mixture was washed with 0.1M HCl solution (100 mL), dried (Na2SO4) and concentrated in vacuo to give the title compound as a yellow oil (5.00 g, 100%). δH (DMSO-d6) 7.92-7.46 (4H, m), 4.28 (1H, m) 4.17-4.14 (2H, m), 4.06-3.92 (2H, m), 3.82 (3H, s), 3.31 (3H, s). LCMS (ES+) RT 1.45 minutes, 330 (M+H)+ (pH 3).

reactant | 2-[(R)-4-Hydroxyisoxazolidine-2-carbonyl]benzoic acid methyl ester | COC(C1=C(C=CC=C1)C(=O)N1OC[C@@H](C1)O)=O | C12H13NO5
reactant | N,N-diisopropylethylamine | 20.3 mmol, 3.55 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 18.5 mmol, 1.40 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-[(R)-4-(Methanesulfonyloxy)isoxazolidine-2-carbonyl]benzoic acid methyl ester | 5.00 g, 100% | COC(C1=C(C=CC=C1)C(=O)N1OC[C@@H](C1)OS(=O)(=O)C)=O | C13H15NO7S
